US06693123B2
[4-(3-Pyridylmethyloxymethyl)-2-phenylbenzoyl]methionine
The desired compound was prepared by saponification of [4-(3-pyridylmethyloxymethyl)-2-phenylbenzoyl]methionine methyl ester, prepared as in Example 183C using the procedure of Example 183B; 1H NMR (CDCl3, 300 MHz) δ 1.66-2.17 (4H, m), 2.02 (3H, s), 4.62 (1H, m), 4.76 (2H, s), 4.78 (2H, s), 6.31 (1H, d, J=6.3 Hz), 7.23-7.44 (7H, m), 7.71 (1H, d, J=7.8 Hz), 7.86 (1H, m), 8.34 (1H, m), 8.65 (1H, m), 8.72 (1H, m); MS (DCI/NH3) m/e 451 (M+H)+. Anal calcd for C25H26N2O4S.1.45HCl: C, 59.65; H, 5.50; N, 5.56. Found: C, 59.80; H, 5.11; N, 5.26.

reactant | [4-(3-pyridylmethyloxymethyl)-2-phenylbenzoyl]methionine methyl ester | COC([C@@H](NC(C1=C(C=C(C=C1)COCC=1C=NC=CC1)C1=CC=CC=C1)=O)CCSC)=O | C26H28N2O4S
reactant | NH3 | N | H3N
product | [4-(3-Pyridylmethyloxymethyl)-2-phenylbenzoyl]methionine | N1=CC(=CC=C1)COCC1=CC(=C(C(=O)N[C@@H](CCSC)C(=O)O)C=C1)C1=CC=CC=C1 | C25H26N2O4S
